US08754079B2
II.5. racemic trans-3-(2-Amino-5-fluoro-phenoxy)-cyclohexanol
A solution of 8.1 g 2-[trans-3-(tert-butyl-dimethyl-silanyloxy)-cyclohexyloxy]-4-fluoro-phenylamine in 50 ml of HCl in ethanol (1.25 M) was stirred for 1 hour at rt. Sodium hydroxide solution (1 N) was then added to the reaction mixture resulting in a basic pH. This mixture was extracted with methylene chloride. The organic phase was dried over sodium sulfate, filtered and concentrated.

reactant | 2-[trans-3-(tert-butyl-dimethyl-silanyloxy)-cyclohexyloxy]-4-fluoro-phenylamine | 8.1 g | C(C)(C)(C)[Si](O[C@@H]1C[C@H](CCC1)OC1=C(C=CC(=C1)F)N)(C)C | C18H30FNO2Si
reactant | Sodium hydroxide | 1 N | [OH-].[Na+]
solvent | HCl | 50 ml | Cl | ClH
solvent | ethanol | 1.25 M | C(C)O | C2H6O
product | racemic trans-3-(2-Amino-5-fluoro-phenoxy)-cyclohexanol | NC1=C(O[C@@H]2C[C@H](CCC2)O)C=C(C=C1)F | C12H16FNO2
